US08710063B2
Add trifluoroacetic acid (3 mL) to a solution of tert-butyl N-[2-[8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-purin-9-yl]ethyl]carbamate (0.6 g, 1.2 mmol) in dichloromethane (3 mL) at 0° C. and stir for 2 h at room temperature. Quench the reaction mixture with saturated aqueous sodium bicarbonate solution, and extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give a residue. Purify the residue on a silica gel column using dichloromethane-methanol (96:4) as eluent to give 2-[8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-purin-9-yl]ethanamine (0.3 g). ES/MS m/z 400 (M+1).

reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-[2-[8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-purin-9-yl]ethyl]carbamate | 1.2 mmol, 0.6 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)CC)C)CCNC(OC(C)(C)C)=O | C25H34ClN7O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-[8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-purin-9-yl]ethanamine | 0.3 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)CC)C)CCN | C20H26ClN7
